Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
 "I've been hearing voices" 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ ___ student with hx of vesicoureteral reflux, 
recent concussion with Horner's Syndrome who self-presented to 
ED with flank pain and auditory hallucinations to aid in 
evaluation of acute psychiatric symptoms.  Patient seen, chart 
reviewed.
.
Patient reports that ___ has had a very chaotic life, parents 
divorced, mother overwhelmed taking care of his ___ younger 
sisters, father a heroin addict who died in ___.  ___ reports 
that ___ has heard male voices, usually deprecatory in content 
("you are worthless, you should just die") and has felt 
depressed
for years but never told anyone. The voices and depression have 
been getting worse this year since starting ___ at ___. 
 ___ has found it difficult to feel motivated, has had trouble 
concentrating, has little appetite, and has trouble falling 
asleep and then oversleeps in the morning if ___ can fall asleep
at all. At his mother's suggestion ___ recently established a PCP 
at ___ and has an appointment ___ to see a ?psychiatrist for 
meds and a subsequent appointment to see a therapist. ___ was 
also given information for BEST and told to call or go to ED if 
___ felt worse. His symptoms have continued to get worse, and 
this morning ___ felt that ___ got a message/voice telling him to 
pick
up a knife and stab himself; ___ looked around but was unable to 
find a knife, but ___ recognized that this was very serious and 
came to the ED. ___ also reports being hypervigilant, feeling 
something bad was going to happen; and ___ sometimes sees things 
others don't, like a car, that is then gone when ___ looks back; 
___ denies any bizarre hallucinations or any homicidal ideation. 
___ enjoys video games and music. In the ED, pt was placed on a 
___ and did not received any medications. 
. 
On interview today, the patient states that ___ "feels empty 
right now." Denies present SI or AVH. Regarding his SI, ___ 
states "I could never finish the job...it's not for me."  ___ 
characterizes the voices ___ hears as manifestations of his 
depression and low self esteem. ___ also states "I sometimes hear 
footsteps...I think that's related to trauma." ___ states ___ 
first thought ___ had a mental health problems at the age of ___ 
when ___ started to feel isolated and would cry alone in his 
room. ___ states it is only more recently that ___ has started 
hearing voices and other things, which ___ thinks of as "echos" 
and knows are not real. ___ also states that this past week ___ 
has been only  getting 4 hours of sleep a night and has had 
reduced appetite. ___ states ___
thinks an inpatient hospitalization can help him get better 
faster before ___ continues care with an outpatient psychiatrist. 

 

 
Past Medical History:
Past Medical History: 
- vesicoureteral reflux
- concussion and Horner's; denies seizure hx
. 
Past psych hx:  saw school counselor ___ grade for "anger
issues."  Did not find it particularly helpful.  Then 
appointment
scheduled ___ as described above.  No hospitalizations, no
medication trials.

 
Social History:
___
Family History:
- opiate dependence in father
- states twin sisters likely have depression

 
Physical Exam:
EXAM:

General: 
-HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear, supple neck. No scleral icterus. 
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout. 
-Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales. 
-Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness. 
-Extremities: Warm and well-perfused. No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological: 

-Cranial Nerves: 
---I: Olfaction not tested. 
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. VFF to confrontation. 
---III, IV, VI: EOMI without nystagmus 
---V: Facial sensation intact to light touch in all 
distributions

---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally 
---VIII: Hearing intact to finger rub bilaterally 
---IX, X: Palate elevates symmetrically 
---XI: ___ strength in trapezii and SCM bilaterally 
---XII: Tongue protrudes in midline -Motor: Normal bulk and tone
bilaterally. No abnormal movements, no tremor. Strength ___
throughout. 
-Sensory: No deficits to fine touch throughout 
-DTRs: 2 and symmetrical throughout Coordination: Normal on
finger to nose test, no intention tremor noted 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty. Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors 
-Orientation: Oriented to person, time, place, situation 
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact 
-Fund of knowledge: Consistent with education; intact to last 3
presidents 
-Calculations: 7 quarters = "$1.75" 
-Abstraction: Interprets "the grass is always greener on the
other side" as "there is a light to the end of the darkness" 
-Visuospatial: Not assessed 
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: young man appearing stated age, well groomed,
wearing hospital gown, in no apparent distress 
-Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation 
-Attitude: Cooperative, engaged, friendly 
-Mood: "empty" 
-Affect: Mood-congruent, full range, appropriate to situation
-Speech: Normal rate, volume, and tone 
-Thought process: Linear, coherent, goal-oriented, no loose
associations 
-Thought Content: 
---Safety: Denies current SI/HI 
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter

---Hallucinations: Denies current AVH, not appearing to be
attending to internal stimuli 
-Insight: Limited but improving
-Judgment: good

 
Pertinent Results:
___ 02:12PM URINE  HOURS-RANDOM
___ 02:12PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:12PM URINE  COLOR-Colorless APPEAR-CLEAR SP 
___
___ 02:12PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-7.5 
LEUK-TR*
___ 02:12PM URINE  RBC-2 WBC-12* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 02:12PM URINE  MUCOUS-RARE*
___ 12:38PM   GLUCOSE-96 UREA N-12 CREAT-1.1 SODIUM-142 
POTASSIUM-4.3 CHLORIDE-99 TOTAL CO2-30 ANION GAP-13
___ 12:38PM   estGFR-Using this
___ 12:38PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:38PM   WBC-4.6 RBC-4.89 HGB-14.5 HCT-44.8 MCV-92 
MCH-29.7 MCHC-32.4 RDW-12.0 RDWSD-40.8
___ 12:38PM   NEUTS-53.6 ___ MONOS-10.0 EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-2.45 AbsLymp-1.50 AbsMono-0.46 
AbsEos-0.13 AbsBaso-0.02
___ 12:38PM   PLT COUNT-188

___ 07:06AM BLOOD %HbA1c-5.1 eAG-100
___ 07:06AM BLOOD Triglyc-166* HDL-54 CHOL/HD-4.6 
LDLcalc-164*
___ 07:06AM BLOOD TSH-1.5
___ 12:38PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

 
Brief Hospital Course:
In personal interview on ___, Mr. ___ confirmed ___ c/o 
anxiety. Reported about problems with focus and headaches. 
Fluctuating sleep. At the time of interview, ___ reported:"I feel 
comfortable"..."I feel destined (?determined) to get help". ___
shared that ___ actually already set up an appointment with 
psychiatrist on ___. Of note, Mr. ___ denied any decrease of 
his academic performance or functioning. ___ reported that his 
academic performance was actually better within last ___ years.
___ graduated high school with GPA 3.6 (despite stressors related 
to family's financial struggles). Re. "voices", ___ said "they 
are manifesto of (his) convincement"..."echo of the thoughts". 
___ clearly said that they are his own thoughts. ___ denied
experiencing frank paranoia. ___ believes his problems are 
related to traumatic experiences growing up in poor neighborhood 
in a family of limited means. Pt's mother was ___ when pt was 
born. His biological father died when pt was young. Pt grew up 
with
stepfather whom ___ described as a "supportive ___. Pt was 
bullied in school. ___ was athletic and was "the most valuable 
player" in his school football team. ___ likes math/writing. ___ 
admits hx of difficulties with reading/comprehension.

Re. PMH, pt has hx of febrile seizure as a child when ___ had 
fever (F 104). ___ has hx of varicose veins, vesicourethral 
reflux. Pt reports hx of concussion in ___ fell of the 
hammock). ___ had nausea, double vision, nasal bleeding. ___ was
evaluated in the ED at the ___. ___ is very clear that ___ had MRI 
and it was unremarkable.

Details of exam, are documented above. Of note, pt was A, Ox4, 
very friendly, good interpersonal skill, affect appropriate, 
reactive, in good range. Pt's TP is linear and well organized. 
No thought disorder noticed. Pt has peculiar language suggestive 
for either language based learning disability or early exposure 
(colloquial ___. E.g., ___ said:"I don't come from a lot of 
items" ___ meant to say limited means); "I feel destined" ___ 
explained ___ meant "determined"). "manifesto of convincement"
(being convinced).
IMP: as above. Considering intact affect, good interpersonal 
skills, successful moving forward with his life, and lack of 
thought disorder, schizophrenia spectrum disorder is lower on 
the diff diagnosis. Depression and complex PTSD are higher on 
the
___ diagnosis list.
Pt required inpt level of care ___ risk for self in the context 
of mood dos and reported S/I. Pt is motivated to get help.

-I discussed the indications for, intended benefits of, and
possible side effects and risks of Zyprexa, and risks and
benefits of possible alternatives, including not taking the
medication, with this patient.  We discussed the patient's right
to decide whether to take this medication as well as the
importance of the patient's actively participating in the
treatment and discussing any questions about medications with 
the
treatment team, and I answered the patient's questions.  The
patient appeared able to understand and consented to continue 
and
to adjust the medication to clinical response.
 
-The patient is not eligible for access to the outdoors based 
on:
danger to self in the context of depression, anxiety and recent
S/Is.

1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. ___ was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. ___ was 
advanced to green status and was able to attend groups 
(including projects group).

2. PSYCHIATRIC:
#)MDD with psychotic features vs. Complex PTSD vs. Unspecified 
psychotic disorder
. 
Mr. ___ is an ___ year old student at ___, with 
history of trauma, vesicoreteral reflex, recent concussion with 
Horner's Syndrome, who self presented to the ED with flank pain 
and auditory hallucinations. Upon further evaluation patient 
endorsed command auditory hallucinations telling pt to kill 
himself with ___ year history of self deprecating AH (telling 
him "you are worthless, you should just die") and longstanding 
history of depressed mood with poor self worth, hopelessness, 
guilt, and anhedonia. Patient reports multiple experiences and 
witnessed traumas in his history. 
. 
On initial admission interview, Mr. ___ endorsed depressed 
mood, anhedonia, poor concentration, difficulty with sleep onset 
insomnia, and feelings of worthlessness. ___ reported that prior 
to arrival in the ED, ___ felt that ___ got a message/ voice 
telling him to pick up a knife and stab himself but was unable 
to find a knife. ___ however reported that these "voices" which 
___ believes were more so his conscience as opposed to distinct 
hallucinations, are egodystonic in nature and denied any intent 
or plan to harm himself.  Upon evaluation the next morning by 
primary team, patient was accompanied by his family and appeared 
both irritable and frustrated that ___ was in the hospital. 
Patient retracted suicidal statements and stated that ___ came to 
the ED for flank pain alone and after endorsing depressed mood 
felt that ___ was coerced into admission. Patient then 
subsequently retracted suicidal statements and additionally 
reported that mood was only "depressed" and "anxious" by being 
in the hospital. ___ denied any auditory hallucinations and 
reported that ___ has never tried to harm himself. ___ appeared 
eager to return to school and was looking forward to following 
up with his outpatient providers. 

. 
During course of this hospitalization patient was started on 
olanzapine 2.5 mg QHS with good effect, ___ noticed decrease of 
anxiety, better mood. ___ reported improved sleep. Mr. ___ also 
attended ___ groups and found them very helpful. In fact, ___ was 
planning to obtain ___ work book upon his discharge. 

Diagnostically, presentation may be consistent with complex 
PTSD, MDD with psychosis, or prodromal primary psychotic 
illness.  TSH was within normal limits and Utox was negative for 
recent substance abuse. Formal psychological testing may be 
helpful in providing further diagnostic clarity.  Prior to 
discharge, inpatient team spoke w pt's mother (Ms. ___ 
___. Mother was surprised about pt's 
admission. However, she also expressed understanding about pt's 
depressed mood. Mother ___ have concerns about pt's safety on 
the discharge day.

3. SUBSTANCE USE DISORDERS: 
#Cannabis Use Disorder
- Patient counseled on cannabis cessation and increased risk of 
developing psychosis. Patient should follow up with his 
psychiatrist for further care. 
.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. ___ found very helpful to attend 
___ groups. Mr. ___ was friendly, compliant with meds, 
assessments, milieu. ___ was friendly with staff and peers.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT: Family 
meeting was held on ___. Also, we talked with pt's mother 
on the day of the discharge (___).

#) INTERVENTIONS
- Medications: Olanzapine 2.5 mg QHS 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: 
- Behavioral Interventions (e.g. encouraged ___ skills, ect): 
-Guardianships:

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication (**Would consider specifically mention 
discussing black box warnings/very dangerous side effects), and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.   We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself ___ depression, reported AH 
and S/I.  His risk factors noted at that time included depressed 
mood, reported S/I, suicidal ideations, pain, male gender, 
Caucasian race.  With treatment, pt's mood and level of anxiety 
improved. ___ noticed better sleep. Pt found therapy group very 
helpful. ___ found it helpful to share about his emotional 
experiences. 

Finally, the patient is being discharged with many protective 
risk factors including better mood, decreased level of anxiety, 
better sleep. Pt was also assisted with developing robust 
outpatient plan. 

Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness. While team offered patient to stay longer, 
Mr. ___ politely but clearly expressed preference to be discharged 
on ___. There were no legal grounds to hold him against his 
will. Also, pt reported that staying in hospital will have 
negative effect on his school which ___ enjoys. ___ reported good 
school performance preceding his admission. 

Pt's prognosis is quarded in light of mood disorder going on for 
several years. However, rapid improvement of condition, being 
motivated to continue treatment, plan to continue with 
outpatient treatment, and reported plan to refrain from illicits 
all are likely to improve prognosis. Also, pt seems to be well 
connected with his family.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  OLANZapine 2.5 mg PO QHS 
RX *olanzapine 2.5 mg one tablet(s) by mouth at bedtime Disp 
#*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD with psychotic features vs. Unspecified psychotic disorder 
r/o Complex PTSD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

On the discharge day, Mr. ___ reported feeling definitely better. 
___ took Zyprexa 2.5mg po qHS and found it helpful.  ___ reported 
brighter mood, better sleep, waking up rested. ___ also noticed 
decrease of anxiety. Mr. ___ is pleased with effect of med. ___ 
denied any side effects and would like to continue med. Mr. ___ 
also attended groups and found them helpful. In particular, ___ 
found ___ group helpful. ___ plans to buy a ___ work book.

On further review of psychiatric sx's, ___ denied any sx's of 
psychosis. Reported good sleep and appetite. Mr. ___ denied any 
S/H/I. ___ shared about positive plans for future. ___ plans to 
resume school. Starting on ___, ___ will be at home in 
___. ___ is interested in attending ___ during his school 
vacation. His affect was friendly, euthymic, reactive, 
appropriate to topics of conversation. Pt denied any S/H/I and 
reported about appropriate steps in case of emergency.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___